* AD8612 SPICE Macro-Model Typical Values
* Description: Amplifier
* Generic Desc: Dual 4 nSec comparator 3V
* Developed by: TAM / ADSC 
* Revision History: 08/10/2012 - Updated to new header style
* 1.0 (01/2000)
* Copyright 2012 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model 
* indicates your acceptance of the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*    
* Parameters modeled include: 
*
* END Notes
*
* Node assignments
*			non-inverting input
*			|	inverting input
*			|	|	positive supply
*			|	|	|	negative supply
*			|	|	|	|	Latch
*			|	|	|	|	|	DGND
*			|	|	|	|	|	|	Q
*			|	|	|	|	|	|	|	QNOT
*			|	|	|	|	|	|	|	|
.SUBCKT AD8612 		1       2       99      50      80      51      45      65
*
* INPUT STAGE
*
*
Q1     4  3 5 PIX
Q2     6  2 5 PIX
IBIAS 99  5 800E-6 
RC1    4 50 1E3
RC2    6 50 1E3
CL1    4  6 3E-13
CIN    1  2 3E-12
VCM1  99  7 1.9
D1     5  7 DX
EOS    3  1 POLY(1) (31,98) 1E-3 1
*
* Reference Voltages
*
EREF  98 0 POLY(2) (99,0) (50,0) 0 0.5 0.5
RREF  98 0 100E3
*
* CMRR=66dB, ZERO AT 1kHz
*
ECM1 30 98 POLY(2) (1,98) (2,98) 0 0.5 0.5
RCM1 30 31 10E3
RCM2 31 98 5
CCM1 30 31 15.9E-9
*
* Latch Section
*
RX 80 51 100E3
E1 10 98 (4,6) 1
S1 10 11 (80,51) SLATCH1
R2 11 12 1
C3 12 98 5.4E-12
E2 13 98 (12,98) 1
R3 12 13 500
*
* Power Supply Section
*
GSY1 99 52 POLY(1) (99,50) 4E-3 -2.6E-4
GSY2 52 50 POLY(1) (99,50) 3.7E-3 -.6E-3
RSY  52 51 10
*
* Gain Stage Av=250 fp=100MHz
*
G2 98 20 (12,98) 0.25
R1 20 98 1000
C1 20 98 10E-13
E3 97  0 (99,0) 1
E4 52  0 (51,0) 1
V1 97 21 DC 0.8
V2 22 52 DC 0.8
D2 20 21 DX
D3 22 20 DX
*
* Q Output
*
Q3  99 41 46 NOX
Q4  47 42 51 NOX
RB1 43 41 2000
RB2 40 42 2000
CB1 99 41 0.5E-12
CB2 42 51 1E-12
RO1 46 44 1
D4  44 45 DX
RO2 47 45 500
EO1 97 43 (20,51) 1
EO2 40 51 (20,51) 1
*
* Q NOT Output
*
Q5  99 61 66 NOX
Q6  67 62 51 NOX
RB3 63 61 2000
RB4 60 62 2000
CB3 99 61 0.5E-12
CB4 62 51 1E-12
RO3 66 64 1
D5  64 65 DX
RO4 67 65 500
EO3 63 51 (20,51) 1
EO4 97 60 (20,51) 1
*
* MODELS
*
.MODEL PIX PNP(BF=100,IS=1E-16)
.MODEL NOX NPN(BF=100,VAF=130,IS=1E-14)
.MODEL DX D(IS=1E-14)
.MODEL SLATCH1 VSWITCH(ROFF=1E6,RON=500,VOFF=2.1,VON=1.4)

.ENDS AD8612




